US09399623B2
6-Chloro-2-(2-methoxy-ethoxy)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide (70)
To a stirred solution of 60% NaH (38.28 mg, 2.0 eq) in THF (5.00 mL, 25.00 V) at 0° C. was added 2-methoxy-ethanol (54.74 mg, 0.72 mmol, 1.50 eq) and stirred for 30 min. Then 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluorocyclohexylmethyl)-amide (200 mg, 0.48 mmol, 1.00 eq) was added to reaction mixture at 0 OC and stirred at RT for 12 h. The reaction was quenched with ice water and extracted with ethyl acetate. The organic layer was dried over anhydrous Na2SO4 and evaporated to dryness. The crude product was purified by column chromatography to afford. The title compound as (46 mg, 0.1 mmol, 22.3%) as a off-white solid. 1H NMR (400 MHz, DMSO-d6): δ 8.74 (t, J=5.6 Hz, 1H), 7.73 (d, J=9.61 Hz, 1H), 7.49-7.55 (m, 2H), 7.17 (d, J=9.62 Hz, 1H), 3.23 (t, J=6.41 Hz, 2H), 3.15 (s, 6H), 1.99-2.05 (m, 2H), 1.75-1.85 (m, 5H), 1.22-1.28 (m, 2H). m/z: 413.0 [M+H]+

reactant | NaH | 38.28 mg, 2.0 eq | [H-].[Na+]
reactant | 2-methoxy-ethanol | 0.72 mmol, 54.74 mg, 1.50 eq | COCCO | C3H8O2
reactant | 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluorocyclohexylmethyl)-amide | 0.48 mmol, 200 mg, 1.00 eq | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
product | 6-Chloro-2-(2-methoxy-ethoxy)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)OCCOC)F | C20H23ClF2N2O3
